US09227962B2
To a solution of 5-(2-chloroacetyl)indolin-2-one (1.0 g, 4.8 mmol) in DMF (20 ml) was added NaI (0.14 g, 0.96 mmol) and NaN3 (0.37 g, 5.7 mmol), and the mixture was stirred for 2 h at room temperature. H2O and EtOAc were added to the mixture, and the resulting precipitate was filtered and dried to afford 5-(2-azidoacetyl)indolin-2-one (0.38 g, 37%).

reactant | 5-(2-chloroacetyl)indolin-2-one | 4.8 mmol, 1.0 g | ClCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8ClNO2
reactant | NaI | 0.96 mmol, 0.14 g | [Na+].[I-]
reactant | NaN3 | 5.7 mmol, 0.37 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-azidoacetyl)indolin-2-one | 0.38 g, 37% | N(=[N+]=[N-])CC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8N4O2
